US05597826
7-(2-Nitrophenylamino)-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was obtained following the procedure of example 27 by reacting 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene (0.225 g, 0.93 mmol), 2-fluoronitrobenzene (0.255 g, 1.8 mmol), and 4-dimethylaminopyridine (0.167 g, 1.37 mmol) in dry DMF (5 mL) with an overnight reflux. The product was isolated by silica gel flash chromatography and recrystallization from ethyl acetate/ether to yield 0.024 g (7%) of the title compound as orange crystals: mp 87°-94° C.; 1H NMR δ 9.70 (br s, 1H), 8.26 (dd, J=1.5, 8.5 Hz, 1H), 8.07 (d, J=2 Hz, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.57 (s, J=8 Hz, 1H), 7.44-7.32 9m, 4H), 7.16 (dd, J=1,7.5 Hz, 1H), 6.82 (dd, J=6.5, 8.5 Hz, 1H), 3.15 (br s, 4H), 2.70 (br s, 4H), 2.41 (s, 3H). HRMS m/e calculated for C21H22N4O2 ; 362.1738. Observed m/e: 362.1736.

reactant | 7-amino-1-(4-methyl-1-piperazinyl)-naphthalene | 0.93 mmol, 0.225 g | NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C15H19N3
reactant | 2-fluoronitrobenzene | 1.8 mmol, 0.255 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ethyl acetate ether | C(C)(=O)OCC.CCOCC
catalyst | 4-dimethylaminopyridine | 1.37 mmol, 0.167 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-Nitrophenylamino)-1-(4-methyl-1-piperazinyl)-naphthalene | 0.024 g, 7% | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C21H22N4O2
